US03981715
Preparation of 5-chloro-3-n-butyl-6-(trifluoromethyl)uracil ##SPC9##
3-n-butyl-6-(trifluoromethyl)uracil (1.0 g.) was dissolved in 15 ml. of 5.25% sodium hypochlorite solution and allowed to stand at room temperature for 1 hour. The suspension which was present was acidified to pH 1 with hydrochloric acid and the solid removed by filtration. After purification by chromatography and recrystallization from cyclohexane, the product had a melting point of 138°-139°C.

reactant | 3-n-butyl-6-(trifluoromethyl)uracil | 1.0 g | C(CCC)N1C(NC(=CC1=O)C(F)(F)F)=O | C9H11F3N2O2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5-chloro-3-n-butyl-6-(trifluoromethyl)uracil | ClC=1C(N(C(NC1C(F)(F)F)=O)CCCC)=O | C9H10ClF3N2O2
